US04760087
(a) 4-(tert-Butyldimethylsilyloxy)-3,5-dimethoxy-benzaldehyde
Using the conditions described in Example 14c 2.05 of 3,5-dimethoxy-4-hydroxybenzaldehyde were reacted with 2.05 g of tert-butyldimethylchlorosilane in the presence of 0.91 g of imidazole and 15 ml of absolute dimethylformamide. The crude product was purified by chromatography on silica gel [Kieselgel 60 (0.063-0.200 mm)] with petroleum ether/ether (1:1) whereupon 2.91 g of the title compound were obtained in the form of crystals melting at 68° C.

reactant | 3,5-dimethoxy-4-hydroxybenzaldehyde | COC=1C=C(C=O)C=C(C1O)OC | C9H10O4
reactant | tert-butyldimethylchlorosilane | 2.05 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 0.91 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(tert-Butyldimethylsilyloxy)-3,5-dimethoxy-benzaldehyde | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=O)C=C1OC)OC | C15H24O4Si
